US07468375B2
Step 7: rac-1-(2,4-Difluorobenzyl)-N-hydroxy-3-{[(3aR,7aS)-1-oxooctahydro-5H-pyrrolo[3,4-c]pyridin-5-yl]methyl}-1H-pyrrolo[2,3-c]pyridine-5-carboxamide.
To a stirring solution of rac-methyl 1-(2,4-difluorobenzyl)-3-{[(3aR*,7aS*)-1-oxooctahydro-5H-pyrrolo[3,4-c]pyridin-5-yl]methyl}-1H-pyrrolo[2,3-c]pyridine-5-carboxylate (0.09 g, 0.198 mmol) in MeOH (5 ml) was added 10% NaOH(aq) (0.5 ml, excess) and H2NOH (1 ml, excess, 50% wt. sol. in water). The resulting mixture was stirred for 16 hours at ambient temperature. The solvent was evaporated and the crude product was purified by reverse phase Prep-HPLC (20-60% acetonitrile:water) to provide the title compound as a white solid (0.032 g, 35%). 1H NMR (MeOH-d4) δ: 8.77 (s, 1H), 8.38 (s, 1H), 7.68 (s, 1H), 7.29-7.25 (m, 1H), 7.03-7.00 (m, 1H), 6.94-6.92 (m, 1H), 5.57 (s, 2H), 3.95-3.93 (m, 2H), 3.44-3.41 (m, H), 3.27-3.25 (m, 1H), 2.99-2.95 (m, 1H), 2.95-2.89 (m, 1H), 2.56-2.52 (m, 2H), 2.50-2.46 (m, 1H), 2.46-2.35 (m, H), 1.84-1.82 (m, H), 1.63-1.62 (m, H). LCMS (APCI, M+H+): 456.15. HPLC: 99% purity.

reactant | rac-methyl 1-(2,4-difluorobenzyl)-3-{[(3aR*,7aS*)-1-oxooctahydro-5H-pyrrolo[3,4-c]pyridin-5-yl]methyl}-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | 0.198 mmol, 0.09 g | FC1=C(CN2C=C(C=3C2=CN=C(C3)C(=O)OC)CN3C[C@@H]2[C@H](CC3)C(NC2)=O)C=CC(=C1)F | C24H24F2N4O3
reactant | NaOH | 0.5 ml | [OH-].[Na+]
reactant | H2NOH | 1 ml | NO | H3NO
solvent | MeOH | 5 ml | CO | CH4O
product | rac-1-(2,4-Difluorobenzyl)-N-hydroxy-3-{[(3aR,7aS)-1-oxooctahydro-5H-pyrrolo[3,4-c]pyridin-5-yl]methyl}-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | 0.032 g, 35% | FC1=C(CN2C=C(C=3C2=CN=C(C3)C(=O)NO)CN3C[C@@H]2[C@H](CC3)C(NC2)=O)C=CC(=C1)F | C23H23F2N5O3
